US05455267
A mixture consisting of 354 mg (1.58 mmol) of 5,7-dihydroxy-2-methylthiochromone, 1.09 g (7.90 mmol) potassium carbonate, 0.79 ml (7.90 mmol) isopropyl iodide, and 20 ml acetone was refluxed overnight. Then, 2.95 ml (47.4 mmol) methyl iodide was added, and the mixture was further refluxed overnight. Water was added to the solution thus reacted. The product was extracted twice with ethyl acetate. The organic layer was washed with saturated salt water and dried over sodium sulfate anhydride. The solvent was distilled out under reduced pressure. The resulting crude product was purified by flash column chromatography (hexane: ethyl acetate =1:3-1:6), whereby 228 mg of 7-isopropoxy-5-methoxy-2-methylthiochromone was obtained (yield: 52%).

reactant | 5,7-dihydroxy-2-methylthiochromone | 1.58 mmol, 354 mg | OC1=C2C(C=C(OC2=CC(=C1)O)C)=S | C10H8O3S
reactant | potassium carbonate | 7.90 mmol, 1.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | 7.90 mmol, 0.79 ml | C(C)(C)I | C3H7I
reactant | methyl iodide | 47.4 mmol, 2.95 ml | CI | CH3I
solvent | Water | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 7-isopropoxy-5-methoxy-2-methylthiochromone | 228 mg, yield: 52% | C(C)(C)OC1=CC(=C2C(C=C(OC2=C1)C)=S)OC | C14H16O3S
